US03993646
2,2,2-Trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate-1-oxide (0.96 g.) was dissolved in 1,1,2-trichloroethane (15 cc), and pyridine (0.32 g.) and pyridine hydrochloride (0.12 g.) were added thereto. The mixture was heated at 100° C., for 3 hours, cooled, washed with water, dried and then concentrated. The residue was subjected to a chromatography of silica gel in which chloroform was used as the eluant. The eluate was conentrated to yield, as the residue, crystals (0.09 g.) of 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2-methyl-2-chloromethylpenam-3-carboxylate, m.p. 104° -105° C.

reactant | 2,2,2-Trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate-1-oxide | 0.96 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2=O)(C)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H19Cl3N2O5S
reactant | pyridine | 0.32 g | N1=CC=CC=C1 | C5H5N
reactant | pyridine hydrochloride | 0.12 g | Cl.N1=CC=CC=C1
solvent | 1,1,2-trichloroethane | 15 cc | ClC(CCl)Cl | C2H3Cl3
product | 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2-methyl-2-chloromethylpenam-3-carboxylate | 0.09 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(CCl)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H18Cl4N2O4S
